US04808623
A mixture of 100 g (0.69 mol) of trifluoroacetaldehyde ethyl-hemiacetal and 169.1 g (0.69 mol) of 2,6-dichloro-4-trifluoromethylphenyl hydrazine is heated at 100° C. for 6 hours. After the volatile components have been removed, the residue is recrystallized from petroleum ether. 200 g (89%) of trifluoroacetaldehyde N-(2,6-dichloro-4-trifluoromethylphenyl)-hydrazone of melting point 45° C. to 46° C. are isolated.

reactant | trifluoroacetaldehyde ethyl-hemiacetal | 0.69 mol, 100 g | C(C)OC(C(F)(F)F)O | C4H7F3O2
reactant | 2,6-dichloro-4-trifluoromethylphenyl hydrazine | 0.69 mol, 169.1 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
product | trifluoroacetaldehyde N-(2,6-dichloro-4-trifluoromethylphenyl)-hydrazone | 200 g, 89% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN=CC(F)(F)F | C9H4Cl2F6N2
